US03951987
0.3 g. of p-acetamidophenol are dissolved in a solution of 0.12 g. of sodium in 10 ml. of absolute ethanol and 0.55 g. of 1-(2-chloroethyl)-4 -(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride are added thereto all at once. The reaction mixture is heated under reflux conditions for 24 hours, filtered from the precipitated sodium chloride and the filtrate evaporated to dryness. The residue is absorbed on silica gel and eluted with methylene chloride-ether (1:1). The 4'-{2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]-ethoxy}-acetanilide obtained from the eluate melts at 139°C. after recrystallization from acetic acid ethyl ester.

reactant | p-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium | [Na] | Na
reactant | 1-(2-chloroethyl)-4 -(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.ClCCN1CCC(=CC1)C1=CC=C(C=C1)F
solvent | ethanol | C(C)O | C2H6O
product | 4'-{2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]-ethoxy}-acetanilide | FC1=CC=C(C=C1)C=1CCN(CC1)CCOC1=CC=C(NC(C)=O)C=C1 | C21H23FN2O2
